US07825256B2
To a solution of (3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-acetic acid ethyl ester (240 mg, 1.0 mmol) in DMSO (2 mL) was added NaH (70 mg of a 60% dispersion on mineral oil, 1.8 mmol) and benzo[1,3]dioxol-5-ylmethyl-(3-bromo-propyl)-carbamic acid tert-butyl ester (370 mg, 1.0 mmol) subsequently. The solution was stirred for 2 h at 60° C. Water (4 mL) was added and the solution was extracted with ethyl acetate, washed with brine and dried over Na2SO4. Evaporation of the solvent gave a residue which was purified by column chromatography to afford 370 mg (70%) of 5-(benzo[1,3]dioxol-5-ylmethyl-tert-butoxycarbonyl-amino)-2-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-pentanoic acid ethyl ester as a red oil.

reactant | (3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-acetic acid ethyl ester | 1.0 mmol, 240 mg | C(C)OC(CC1=NC(=NS1)N1C=NC=C1)=O | C9H10N4O2S
reactant | NaH | [H-].[Na+]
reactant | benzo[1,3]dioxol-5-ylmethyl-(3-bromo-propyl)-carbamic acid tert-butyl ester | 1.0 mmol, 370 mg | C(C)(C)(C)OC(N(CCCBr)CC1=CC2=C(OCO2)C=C1)=O | C16H22BrNO4
reactant | Water | 4 mL | O | H2O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 5-(benzo[1,3]dioxol-5-ylmethyl-tert-butoxycarbonyl-amino)-2-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-pentanoic acid ethyl ester | 370 mg, 70% | C(C)OC(C(CCCN(C(=O)OC(C)(C)C)CC1=CC2=C(OCO2)C=C1)C1=NC(=NS1)N1C=NC=C1)=O | C25H31N5O6S
